US06924278B2
Methane sulfonyl chloride (0.22 ml) was added to a mixture of (E)-3-(3-pyridyl)-2-propen-1-ol (0.36 g) and triethylamine (0.74 ml) in dichloromethane (5 ml) under −10° C. After being stirred at the same temperature for 0.5 hour, the reaction mixture was washed with saturated sodium bicarbonate, dried over magnesium sulfate and evaporated under reduced pressure to give (E)-3-(3-pyridyl)-2-propen-1-yl methanesulfonate.

reactant | Methane sulfonyl chloride | 0.22 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | (E)-3-(3-pyridyl)-2-propen-1-ol | 0.36 g | N1=CC(=CC=C1)/C=C/CO | C8H9NO
reactant | triethylamine | 0.74 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (E)-3-(3-pyridyl)-2-propen-1-yl methanesulfonate | CS(=O)(=O)OC\C=C\C=1C=NC=CC1 | C9H11NO3S
